US06965029B2
39.1 g (250 mmol) of sodium percarbonate were added in four portions at room temperature, over a period of 2 hours, with stirring, to 13.9 g (82 mmol) of 6-oxo-7-octenoic acid methyl ester in 210 ml of methanol. After stirring for a further one hour at room temperature, the reaction mixture was added to 1000 ml of water and extracted several times with methylene chloride. The combined organic phases were washed with water. After drying over sodium sulfate, the solvent was distilled off using a rotary evaporator. 13.5 g (88%) of 7,8-epoxy-6-oxo-octanoic acid methyl ester were obtained.

reactant | sodium percarbonate | 250 mmol, 39.1 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | 6-oxo-7-octenoic acid methyl ester | 82 mmol, 13.9 g | COC(CCCCC(C=C)=O)=O | C9H14O3
reactant | water | 1000 ml | O | H2O
solvent | methanol | 210 ml | CO | CH4O
product | 7,8-epoxy-6-oxo-octanoic acid methyl ester | 13.5 g, 88% | COC(CCCCC(C1CO1)=O)=O | C9H14O4
